US06407096B1
4-(3-azidopropyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine
4-(3-hydroxypropyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine (2.0 g) was dissolved in dichloromethane (20 ml), and triethylamine (1.27 ml) and a methanesulfonyl chloride (0.6 ml) were added to the resultant solution at 0° C., followed by stirring for 2 hours. The reaction solution was diluted with chloroform, washed with saturated brine, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to obtain a crude mesyl compound. The crude mesyl compound was dissolved in DMF (20 ml), and sodium azide (510 mg) was added to the resultant solution, and the mixture was stirred at room temperature for 15 hours. The reaction solution was diluted with ethyl acetate, washed with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resultant residue was purified by column chromatography (silica gel: ethyl acetate/n-hexane=1:9) to obtain the object compound (2.07 g, yield 96%).

reactant | 4-(3-hydroxypropyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine | 2.0 g | OCCCN1C(COC2=C1C=CC=C2OC2OCCCC2)=O | C16H21NO5
reactant | triethylamine | 1.27 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 510 mg | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-azidopropyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine | 2.07 g, yield 96% | N(=[N+]=[N-])CCCN1C(COC2=C1C=CC=C2OC2OCCCC2)=O | C16H20N4O4
